US05326755
Diphenyl disulphide (9.81 g) was added to a solution of silver nitrate (7.8 g) in methanol (400 ml). Isobutylamine (22.3 ml) was added with cooling and the mixture stirred at room temperature for 24 hours. After filtration the flltrate was concentrated and the crude product purified by short path distillation. (137° at 0.7mm) to give N-isobutyl phenylsulphenamide.

reactant | Diphenyl disulphide | 9.81 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | Isobutylamine | 22.3 ml | C(C(C)C)N | C4H11N
solvent | methanol | 400 ml | CO | CH4O
catalyst | silver nitrate | 7.8 g | [N+](=O)([O-])[O-].[Ag+]
product | N-isobutyl phenylsulphenamide | C(C(C)C)NSC1=CC=CC=C1 | C10H15NS
